US05849765
4-(Benzothiophen-2-yl)-1-(3-chlorobenzyl)-1,2,3,6-tetrahydropyridine
4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (250 mg, 0.99 mmol) was reacted with 3-chlorobenzyl bromide (0.2 ml, 1.5 mmol) as exemplified in Example 1. The crude product was triturated with methanol to give the title compound as a pale yellow solid (50 mg, 15%); (Found: C, 69.05; H, 5.03; N, 4.07. C20H18ClNS. 0.5H2O requires C, 68.85; H, 5.49; N, 4.01%). δH (CDCl3), 2.65 (2H, m, NCH2CH2), 2.73 (2H, m, NCH2CH2), 3.18 (2H, m, NCH2CH2), 3.62 (2H, s, NCH2Ar), 6.19 (1H, m, NCH2 CH), 7.12 (1H, s, ArH), 7.28 (5H, m, ArH), 7.39 (1H, s, ArH), 7.67 (1H, d of d, J 6.2Hz, J 1.9Hz, ArH), 7.73 (1H, d of d, J 8.4Hz, J 1.8Hz, ArH). m/z (ES+) 340 (M+1)+.

reactant | 4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.99 mmol, 250 mg | Cl.S1C(=CC2=C1C=CC=C2)C=2CCNCC2
reactant | 3-chlorobenzyl bromide | 1.5 mmol, 0.2 ml | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | 4-(Benzothiophen-2-yl)-1-(3-chlorobenzyl)-1,2,3,6-tetrahydropyridine | 50 mg, 15% | S1C(=CC2=C1C=CC=C2)C=2CCN(CC2)CC2=CC(=CC=C2)Cl | C20H18ClNS
